US05684034
A solution of 100 mg (0.245 mmol) of 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid ethyl ester and 2 mL of 1N NaOH in 5 mL of EtOH was stirred for 3.0 hours, diluted with water and extracted with EtOAc. The aqueous layer was made acidic to pH 6 with 1N HCl and extracted with EtOAc, the EtOAc dried (MgSO4), and on concentrating at reduced pressure a precipitate formed that was separated and washed with MeOH to give 40 mg (42% yield) of 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid, mp, 192°-193° C.

reactant | 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid ethyl ester | 0.245 mmol, 100 mg | C(C)OC(CCCOC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C)CC(=O)N)=O | C24H28N2O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid | 40 mg, 42% yield | NC(CC1=C(N(C2=CC=CC(=C12)OCCCC(=O)O)CC1=CC=CC=C1)C)=O | C22H24N2O4
